US06977267B2
A solution of di-tert-butyldicarbonate (7.72 g, 35.4 mmol) in THF (100 ml) was added to a suspension of 3-(3,5-dichlorophenyl)-imidazolidin-2,4-dione (7.5 g, 30.6 mmol, prepared according to Fujinami et al. cited above) and DMAP (560 mg, 4.6 mmol) in THF (150 ml). After 3 h at RT, the mixture was evaporated, taken into DCM, washed twice with 1N aqueous HCl and once with brine, and finally concentrated to yield 3-(3,5-dichlorophenyl)-2,4-dioxoimidazolidine-1-carboxylic acid tert-butyl ester (10.17 g) as a white solid. 1H NMR (CDCl3): 7.40 (1H, m), 7.37 (2H, m), 4.40 (2H, s), 1.58 (9H, s).

reactant | di-tert-butyldicarbonate | 35.4 mmol, 7.72 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(3,5-dichlorophenyl)-imidazolidin-2,4-dione | 30.6 mmol, 7.5 g | ClC=1C=C(C=C(C1)Cl)N1C(NCC1=O)=O | C9H6Cl2N2O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 4.6 mmol, 560 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-(3,5-dichlorophenyl)-2,4-dioxoimidazolidine-1-carboxylic acid tert-butyl ester | 10.17 g | C(C)(C)(C)OC(=O)N1C(N(C(C1)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C14H14Cl2N2O4
